US08471005B2
{2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-benzyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester
Into a 8-dram vial, N-α-(tert-Butoxycarbonyl)glycine (35.1 mg, 0.200 mmol) was dissolved in N,N-Dimethylformamide (5.00 mL), and 1-Hydroxybenzotriazole hydrate (0.0306 g, 0.200 mmol), N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (38.4 mg, 0.200 mmol) were added. After stirring for 5 min, N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide (87 mg, 0.17 mmol) was added followed by 4-Methylmorpholine (0.0220 mL, 0.200 mmol). The reaction was stirred at room temperature for 1 hour. The reaction mixture was diluted with NaHCO3 and the resulting ppt was filtered, washed with NaHCO3 and water. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 25% methanol). The collected fractions afforded a yellow solid (35 mg, 30%). LCMS (E/I+) 679.05 (M+H). NMR 1H (DSMO-d6)-8.96 (s, 1H), 7.94-7.99 (m, 1H), 7.91 (d, 1H, J=8.27), 7.72 (s, 1H), 7.62-7.67 (m, 1H), 7.51-7.59 (m, 1H), 7.00 (d, 1H, J=4.65 Hz), 6.92-6.98 (m, 2H), 6.67-6.76 (m, 2H), 3.84 (s, 3H), 3.76 (d, 2H, J=5.89 Hz), 3.34-3.50 (m, 6H), 3.03 (s, 3H), 2.88 (s, 3H), 2.33 (bs, 4H), 1.37 (s, 9H).

reactant | 1-Hydroxybenzotriazole hydrate | 0.200 mmol, 0.0306 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.200 mmol, 38.4 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 0.17 mmol, 87 mg | COC1=C(C=CC(=C1)CN1CCNCC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H31N7O3S
reactant | 4-Methylmorpholine | 0.200 mmol, 0.0220 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-Dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | {2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-benzyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 35 mg, 30% | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(C)S(=O)(=O)C)OC)=O | C33H42N8O6S
